US07795262B2
Step 1. Preparation of 7-methoxy-3-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine
7-Methoxy-3-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-benzo[d]azepin-1-one (6.91 g, 20 mmol) (prepared essentially as described by Kanao et al. (1982) Chem. Pharm. Bull. 30:180-88) is added to a mixture of acetic acid (20 ml), 37% hydrochloric acid (8 ml), EtOH (8 ml) and dioxane (80 ml). 1.0 g of 10% palladium-carbon is added to the mixture, and the resulting mixture is hydrogenated under 30-55 psi at rt overnight. The palladium-carbon is removed by filtration, and the filtering cake is washed with MeOH (30 ml×3). The combined organic phase is evaporated to dryness under reduced pressure to give the title compound as a white solid. MS (+VE) m/z 332.1 (M+).

reactant | 7-Methoxy-3-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-benzo[d]azepin-1-one | 20 mmol, 6.91 g | COC1=CC2=C(C(CN(CC2)S(=O)(=O)C2=CC=C(C=C2)C)=O)C=C1 | C18H19NO4S
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | EtOH | 8 ml | CCO | C2H6O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 7-methoxy-3-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | COC1=CC2=C(CCN(CC2)S(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C18H21NO3S
